US07582673B2
To a solution of o-phenylenediamine (5 mmol) in DCM (25 mL) and pyridine (5 mL) at 0° C., 5-bromo-2-methoxybenzenesulfonyl chloride (5.5 mmol) was added in small portions. The reaction mixture was then gradually warmed to RT with stirring continued until the reaction was complete as determined by TLC or LC-MS. The reaction mixture was then diluted with DCM (25 mL). The organic phase was washed with water (2×25 mL) and 25 mL of brine. The organic phase was dried over anhydrous sodium sulfate, and concentrated under vacuum. The residue obtained was purified by flash column chromatography eluting with DCM/EtOAc to give 1.07 g of N-(2-aminophenyl)-5-bromo-2-methoxybenzene sulfonamide. 1H NMR (CDCl3, 400 MHz): δ 4.08 (s, 3H), 4.22(bs, 2H), 6.52 (m, 2H), 6.75 (m, 2H), 7.01 (d, 1H), 7.03 (m, 1H), 7.65(dd, 1H), 7.88 (d, 1H) ppm.

reactant | o-phenylenediamine | 5 mmol | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 5-bromo-2-methoxybenzenesulfonyl chloride | 5.5 mmol | BrC=1C=CC(=C(C1)S(=O)(=O)Cl)OC | C7H6BrClO3S
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | N-(2-aminophenyl)-5-bromo-2-methoxybenzene sulfonamide | 1.07 g | NC1=C(C=CC=C1)NS(=O)(=O)C1=C(C=CC(=C1)Br)OC | C13H13BrN2O3S
